Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Pentasa
 
Attending: ___.
 
Chief Complaint:
Hyponatremia
 
Major Surgical or Invasive Procedure:
___ - Peritoneal drain

 
History of Present Illness:
Mr ___ is a ___ yr old male with hx of IBD s/p colectomy and 
ileoanal pouch, type I DM, hypothyroidism, chronic hyponatremia 
and recently diagnosed cholangioCa s/p CBD stent x2. Was 
recently discharged after developing peritonitis as well as 
cholagnitis w/ E coli bacteremia and liver abscess, underwnt US 
drainage, drain removed ___. has been on ceftriaxone and 
flagyl via PICC and followed in ___ clinic. During last 
admission pt also had recurrent malignant ascites but no 
peritoneal drain placed due to recent peritonitis. Pt Was seen 
in oncology clnic today and Na 114 (recent baseline 125-129). 
Also had elevated K to 5.4, recently normal. Pt reports poor PO 
intake recently. Has been undergoing paracentesis every few 
days, last done ___ removed and ___ per pt 
report. States the ab distention rapidly returns and the day 
following drainage he gets early satiety, has trouble eating. 
yesterday able to eat some but today not able to tolerate any 
meds or liquids, had emesis at least 4 times, clear gastric 
juices no melena/hematochezia. Emesis also last week day prior 
to paracentesis. After fluid is drained he gets relief and is 
able to eat more. Also having diffuse ab pain related to build 
up of fluid esp in  biilatearl lower abdomen. No seizures, in ED 
family reported some slowing of his response rate in 
conversation over last few days, but no confusion or 
disorientation which he also denies. Does have some constipation 
but currently no BM due to not eating. Cont to lose weight, 
possibly 10lb in past week. Also has ongoing ___ edema not on 
diuretics, typically gets better with elevating legs at home but 
today was on his feet all day. In ED pt was neurologically 
intact. Repeat Na prior to any intervention 118. He was started 
on NS 100/hr, continued on home meds: ceftriaxone 2g q 24, 
meronidazole 500mg q 8, fluconazle 400mg daily which were given 
in ED
 
Past Medical History:
IBD s/p colectomy with ileoanal pouch and reversal
Erosive duodenitis ___ IBD
Pouchitis ___ IBD
Diabetes Mellitus I
Hypothyroidsism
Vitamin D deficiency
Cholangiocarcinoma w/ porta hepatis mass and large omental 
masses and involvement of intraperitoneal lymph nodes. He was 
seen in ___ clinic today for an initial consultation of 
stage IV cholangiocarcinoma. Pt was informed that there is no 
cure for this stage of disease and goal of treatment 
(gemcitabine + cisplatin) is to palliate symptoms and to prolong 
life. Currently performance status (ECOG 3) is too poor to 
administer chemotherapy safely. 
 
Social History:
___
Family History:
1 Brother with DM I and other autoimmune problems
Father and sister with DM II
Mom deceased with emphysema

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITAL SIGNS: 98.1  122/84  99  18  100%RA
General: NAD, cachectic
HEENT:  MM tachy, no OP lesions 
Neck: supple, no JVD
CV:  RR, NL S1S2 no S3S4 or MRG
PULM:  crackles at bases that clear w/ cough, o/w CTAB,
nonlabored
ABD:  BS+, soft, NTND, no masses or hepatosplenomegaly
EXT:  warm well perfused, pitting edema to calves bilat
SKIN:  No rashes or skin breakdown
NEURO:  alert and oriented x 4, ___, EOMI, no nystagmus, face
symmetric, no tongue deviation, full hand grip, shoulder shrug
and bicep flexion, full toe dorsiflexion and hip flexion against
resistance bilateral, sensation intact to light touch, no 
clonus,
Romberg negative, no dysmetria with FTN/HTS testing 
 
Pertinent Results:
ADMISSION LABS
___ 10:29AM   NEUTS-87.0* LYMPHS-6.2* MONOS-4.3 EOS-1.8 
BASOS-0.8
___ 10:29AM   WBC-11.9* RBC-3.52* HGB-11.5*# HCT-33.9* 
MCV-96 MCH-32.6* MCHC-33.8 RDW-17.9*
___ 10:29AM   PLT COUNT-390
___ 10:29AM   ___ ___
___ 10:29AM   ALT(SGPT)-29 AST(SGOT)-66* ALK PHOS-1473* TOT 
BILI-1.5
___ 10:29AM   ALBUMIN-2.4* CALCIUM-8.5 MAGNESIUM-2.0
___ 10:29AM   OSMOLAL-288
___ 03:15PM   GLUCOSE-144* UREA N-21* CREAT-1.1 SODIUM-118* 
POTASSIUM-5.9* CHLORIDE-81* TOTAL CO2-23 ANION GAP-20
___ 03:15PM   CORTISOL-28.0*
___ 10:29AM   UREA N-18 CREAT-1.1 SODIUM-114* 
POTASSIUM-5.4* CHLORIDE-81* TOTAL CO2-23 ANION GAP-15

DISCHARGE LABS
___ 05:36AM BLOOD WBC-10.0 RBC-3.00* Hgb-9.5* Hct-28.4* 
MCV-95 MCH-31.7 MCHC-33.5 RDW-18.4* Plt ___
___ 05:36AM BLOOD Glucose-153* UreaN-21* Creat-1.1 Na-119* 
K-4.8 Cl-89* HCO3-26 AnGap-9
___ 05:36AM BLOOD ALT-21 AST-51* AlkPhos-1435* TotBili-1.7*
___ 07:00AM BLOOD T4-7.1 calcTBG-0.81 TUptake-1.23 
T4Index-8.7
 
Brief Hospital Course:
Mr. ___ is a ___ yr old man with Hx of IBD s/p colectomy and 
ileoanal pouch, type I DM, hypothyroidism and recently diagnosed 
Cholangiocarcinoma s/p CBD stent x 2 who presents for management 
of acute on chronic hyponatremia with a sodium of 114 on 
admission. 

ACTIVE ISSUES
#SEVERE HYPONATREMIA: Currently asymptomatic. This is likely 
multifactorial secondary to hypovolemia as he appears dry and is 
thirsty. In addition, it is likely that underlying liver disease 
and possible SIADH may also play a role. This was not responsive 
to NS fluid resuscitation previously. Grossly elevated TSH 
likely contributing. Ascites causing compression of renal veins 
may also be a limiting factor. Correction of his profound 
hypothyroidism is expected to contribute, however despite fluid 
restriction, the patient's sodium level has remained stable at 
the 119-120 mEq range. Continued to follow renal 
recommendations: fluid restriction 1.5L daily, concentrated 
albumin bid today, Na checked q___ - patient near baseline Na, no 
salt tabs. Low potassium diet. Managed hypothyroidism per 
endocrinology (see below). Ensure supplements tid, drained 
ascites, as below. 
- Planned goals of care discussion today, as fluid restriction 
may not be consistent with patient's desires re: treatment at 
this stage -- was decided to go home on hospice with liberalized 
fluid and PO intake. 

#RECURRENT MALIGNANT ASCITES: Notable omental caking on imaging
now requiring drainage every few days due to symptoms. PleurX 
drain placed in peritoneum yesterday by ___ which patient 
tolerated well. 3L drained yesterday.
- Drain prn patient comfort

#PAIN: better controlled with fentanyl patch, q48h.

#DM TYPE 1: On Lantus as outpatient. Dose-reduced recently due 
to poor PO intake.

#HYPOTHYROIDISM: On Levothyroxine 175mcg daily at home. In 
house, TSH 63, T4 3.9. Patient also with malnutrition. 
Hypothyroidism likely contributing to hyponatremia. 
- IV levothyroxine per Endocrine
- Appreciate further recommendations from Endocrinology

#METASTATIC CHOLANGIOCARCINOMA: currently not candidate for 
systemic
chemotherapy given poor performance status. Per prior 
documentation, consideration being given to possible palliative 
regimen (Gemcitabine + Cisplatin).
- Plan for goals of care discussion today with patient, family, 
Oncology team and Palliative care

#MALNUTRITION: Patient with ongoing weight loss, 25 pounds since 
late ___. 
- Ensure supplements as above

INACTIVE ISSUES
#HX LIVER ABSCESS: s/p US guided drainage, drain removed ___. 
2 week course of Ceftriaxone, Flagyl and PO Fluconazole 
following drain removal completed on ___. 

****TRANSITIONAL ISSUES****
- Discharge home on home hospice
- IV fluids & antiemetics for comfort 
- Encourage PO intake as much as tolerated 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. HumaLOG (insulin lispro) 25 units subcutaneous TID/pre meals 
2. Levothyroxine Sodium 175 mcg PO DAILY 
3. Calcium Carbonate 500 mg PO QID:PRN GERD 
4. Metoclopramide 10 mg PO QIDACHS 
5. MetRONIDAZOLE (FLagyl) 500 mg PO TID 
6. Ondansetron 4 mg PO Q8H:PRN nausea 
7. Lantus (insulin glargine) 25 units subcutaneous qam 
8. NexIUM (esomeprazole magnesium) 40 mg oral daily 
9. Docusate Sodium 100 mg PO BID:PRN constipation 
10. CeftriaXONE 2 gm IV Q24H 
11. Fentanyl Patch 75 mcg/h TD Q72H 
12. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
13. Fluconazole 400 mg PO Q24H 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses: hyponatremia, malignant ascites, liver 
abscess
Secondary diagnoses: metastatic cholangiocarcinoma, 
hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with a very low sodium level 
(hyponatremia). Your sodium level slowly rose while in house by 
decreasing your fluid intake. Your ascites (fluid in your 
abdomen) was drained and then a drain was placed. Your pain and 
nausea medication regimens were adjusted. You completed your 
course of antibiotics from  your liver abscess while in house. 

It was a pleasure taking care of you. We wish you the very best!
- Your team at ___
 
Followup Instructions:
___